US08012976B2
9-Phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of 9-phenyl-2H-pyrido[4,3,2-de]phthalazine-3,8(7H,9H)-dione (80 mg, 2.2 mmol), BH3 (0.7 mL, 1 mol/L in THF), dioxane (4 mL) in sealed tube was stirred for 2 h at 95° C. under nitrogen atmosphere. Then the mixture was treated with MeOH˜HCl (g) (0.2 mL), stirred for 20 min at 95° C. Then the mixture was cooled and adjusted to pH=8 with Et3N. The solvent was removed under vacuum and the crude was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=20:1 to 1:1) to obtain the title compound as a yellow solid (l 8.3 mg, yield 24%). LC-MS (ESI) m/z: 264 (M+1)+. 1H-NMR (400 MHz, CD3OD) δ (ppm): 3.60-3.64 (m, 1H), 3.68-3.72 (m, 1H), 4.21 (t, J=5.2 Hz, 1H), 7.09-7.11 (d, J=8 Hz, 1H), 7.16-7.29 (m, 5H), 7.53-7.61 (m, 2H).

reactant | 9-phenyl-2H-pyrido[4,3,2-de]phthalazine-3,8(7H,9H)-dione | 2.2 mmol, 80 mg | C1(=CC=CC=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)=O | C16H11N3O2
reactant | dioxane | 4 mL | O1CCOCC1 | C4H8O2
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | 9-Phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 8.3 mg, yield 24% | C1(=CC=CC=C1)C1CNC=2C=3C1=NNC(C3C=CC2)=O | C16H13N3O
